US05208223
2-[(Hexadecyloxy)methyl]-3-(phenylmethoxy)-1-propanamine
To a solution of 0.87 g of lithium aluminum hydride in 80 ml of ether under argon is added, with stirring, over 30 minutes, a solution of 8.5 g of [[3- azido-2-[(hexadecyloxy)methyl]propoxy]methyl]benzene in 80 ml of ether. This mixture is refluxed for 3 hours, then cooled to 0° C. and 8 ml of saturated aqueous sodium sulfate solution is added. The mixture is filtered and the filtrate evaporated, to give 8.0 g of the desired compound as an oil.

reactant | lithium aluminum hydride | 0.87 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | [[3- azido-2-[(hexadecyloxy)methyl]propoxy]methyl]benzene | 8.5 g | N(=[N+]=[N-])CC(COCC1=CC=CC=C1)COCCCCCCCCCCCCCCCC | C27H47N3O2
reactant | sodium sulfate | 8 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
product | 2-[(Hexadecyloxy)methyl]-3-(phenylmethoxy)-1-propanamine | 8.0 g | C(CCCCCCCCCCCCCCC)OCC(CN)COCC1=CC=CC=C1 | C27H49NO2
